US08138178B2
N-(2-methyl-1-((S)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propan-2-yl)methanesulfonamide
The title compound was prepared from N-(1-((S)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2-methylpropan-2-yl)methanesulfonamide and 2-oxo-1,2-dihydropyridin-5-ylboronic acid following a procedure analogous to that described in Example 4. LC-MS Method 1 tR=1.3 min, m/z=524 (M+1); 1H NMR (CDCl3) 7.81 (d, 1H, J=9 Hz), 7.63 (br s, 1H), 7.39-7.31 (m, 5H), 7.18 (d, 2H, J=8 Hz), 7.03 (d, 2H, J=7 Hz), 6.79 (d, 1H, J=9 Hz), 5.67 (q, 1H, J=6 Hz), 2.93 (s, 3H), 2.90 (m, 1H), 2.49 (d, 1H, J=15 Hz), 2.32 (d, 1H, J=15 Hz), 2.28-2.18 (m, 3H), 1.54 (d, 3H, J=7 Hz), 1.36 (s, 3H), 1.25 (s, 3H).

reactant | N-(1-((S)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2-methylpropan-2-yl)methanesulfonamide | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)NS(=O)(=O)C)=O | C23H29BrN2O4S
reactant | 2-oxo-1,2-dihydropyridin-5-ylboronic acid | O=C1NC=C(C=C1)B(O)O | C5H6BNO3
product | N-(2-methyl-1-((S)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propan-2-yl)methanesulfonamide | CC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)C1=CC=CC=C1)(C)NS(=O)(=O)C | C28H33N3O5S
